US06080743
205 g (0.828 mol) of 5-iodo-2,3,7-trichloro-quinoxaline are placed in 2255 ml of methanol at room temperature, and 463.9 ml of an approximately 5.4 molar solution of sodium methanolate in methanol are added. The reaction mixture is then heated to reflux and stirred for 18 hours. The reaction mixture is cooled to 0° C. and the suspension is filtered with suction. The filter residue is then washed with methanol and dried in vacuo at 60° C., and the crude product is purified by means of continuous extraction with diethyl ether. 96.4 g (48.8%) of 7-chloro-2,3-dimethoxy-5-iodo-quinoxaline having a melting point of 94-96° C. are obtained.

reactant | 5-iodo-2,3,7-trichloro-quinoxaline | 0.828 mol, 205 g | IC1=C2N=C(C(=NC2=CC(=C1)Cl)Cl)Cl | C8H2Cl3IN2
reactant | sodium methanolate | C[O-].[Na+]
reactant | methanol | 2255 ml | CO | CH4O
product | 7-chloro-2,3-dimethoxy-5-iodo-quinoxaline | 96.4 g, 48.8% | ClC1=CC(=C2N=C(C(=NC2=C1)OC)OC)I | C10H8ClIN2O2
